US07399777B2
4-Chloromethyl-5-methyl-2-(4-(2-propyl)-phenyl)-oxazole
38 g of 4,5-Dimethyl-2-(4-(2-propyl)-phenyl)-oxazole 3-oxide are dissolved in 200 ml of chloroform, 16.4 ml of phosphorus oxychloride are added and the mixture is heated under reflux for 30 minutes. The reaction mixture is cooled to 0° C., a slightly alkaline pH is established using ammonia and the mixture is extracted three times with in each case 500 ml of ethyl acetate. The combined organic phases are washed with water and dried over MgSO4 and the solvent is then removed under reduced pressure. The residue is purified on silica gel using the mobile phase n-heptane:ethyl acetate=80:1=>5:1. This gives 10.3 g of 4-chloromethyl-5-methyl-2-(4-(2-propyl)-phenyl)-oxazole as a colorless solid. C14H16CINO (249.74), MS(ESI): 250 (M+H+).

reactant | 4,5-Dimethyl-2-(4-(2-propyl)-phenyl)-oxazole 3-oxide | 38 g | CC=1[N+](=C(OC1C)C1=CC=C(C=C1)C(C)C)[O-] | C14H17NO2
reactant | phosphorus oxychloride | 16.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloromethyl-5-methyl-2-(4-(2-propyl)-phenyl)-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(C)C | C14H16ClNO
